US07652049B2
To a 0° C. solution of 2-bromo-5-formylthiazole (100.6 mg, 0.524 mmol) in THF (5 mL) was added MeMgBr (175 μL of a 3M solution in Et2O, 0.524 mmol). After 30 minutes, additional MeMgBr (50 μL of a 3M solution in Et2O, 0.150 mmol) was added. After 30 more minutes, the reaction was quenched by pouring into saturated NH4Cl (20 mL). The mixture was extracted with EtOAc (50 mL) and the organic layer was washed with water and brine (25 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography (0 to 80% EtOAc/hexanes) afforded 1-(2-bromo-1,3-thiazol-5-yl)ethanol. Rf=0.13 (25% EtOAc/hexanes). LCMS=210.0 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.40 (s, 1H), 5.12 (q, J=6.4 Hz, 1H), 1.59 (d, J=6.4 Hz, 3H).

reactant | 2-bromo-5-formylthiazole | 0.524 mmol, 100.6 mg | BrC=1SC(=CN1)C=O | C4H2BrNOS
reactant | MeMgBr | C[Mg+].[Br-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 1-(2-bromo-1,3-thiazol-5-yl)ethanol | BrC=1SC(=CN1)C(C)O | C5H6BrNOS
